US06284785B1
(RS)-2-(4-Fluoro-phenyl)-1-(4-methoxymethyl-benzenesulfonyl)-pyrrolidine
Reaction of (RS)-2-(4-fluoro-phenyl)-1-(4-chloromethyl-benzenesulfonyl)-pyrrolidine (0.50 g, 1.41 mmol), which was prepared in accordance with the general method of example 1e from (RS)-2-(4-fluoro-phenyl)-pyrrolidine and 4-bromomethyl-benzenesulfonyl chloride, with sodium methanolate in MeOH for 80 h at 50° C. yielded after crystallization from EE/hexane 0.28 g (52%) of the title compound as a white solid, m.p. 115° C., and MS: m/e=349 (M+).

reactant | (RS)-2-(4-fluoro-phenyl)-1-(4-chloromethyl-benzenesulfonyl)-pyrrolidine | 1.41 mmol, 0.50 g | FC1=CC=C(C=C1)C1N(CCC1)S(=O)(=O)C1=CC=C(C=C1)CCl | C17H17ClFNO2S
reactant | (RS)-2-(4-fluoro-phenyl)-pyrrolidine | FC1=CC=C(C=C1)C1NCCC1 | C10H12FN
reactant | 4-bromomethyl-benzenesulfonyl chloride | BrCC1=CC=C(C=C1)S(=O)(=O)Cl | C7H6BrClO2S
reactant | sodium methanolate | C[O-].[Na+]
solvent | MeOH | CO | CH4O
product | (RS)-2-(4-Fluoro-phenyl)-1-(4-methoxymethyl-benzenesulfonyl)-pyrrolidine | FC1=CC=C(C=C1)C1N(CCC1)S(=O)(=O)C1=CC=C(C=C1)COC | C18H20FNO3S
